### PR TITLE
feat(Geometry/Euclidean): centroid and circumcenter and Monge point coincide in equilateral simplex

### PR DESCRIPTION
**Pull request by LLaurance**
No new definitions.

`Affine.Simplex.circumcenter_mem_perpBisector` seems to belong in either `Affine.Simplex.Circumcenter` or `Affine.Simplex.PerpBisector` but neither has all the necessary imports.

`Affine.Simplex.Equilateral.dist_centroid_eq'` is assisted by Claude.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/Equilateral.lean [hunk 1]
```diff
@@ -0,0 +1,108 @@
...
+open AffineSubspace EuclideanGeometry
+
+/-- The circumcenter lies on the perpendicular bisector of any two points. -/
+lemma circumcenter_mem_perpBisector :
+    s.circumcenter ∈ perpBisector (s.points i) (s.points j) := by
+  simp only [mem_perpBisector_iff_dist_eq, dist_circumcenter_eq_circumradius']
+
+namespace Equilateral
+
+lemma equilateral_faceOpposite [NeZero n] (h : s.Equilateral) : (s.faceOpposite i).Equilateral := by
```
Comment (theebayuser) [inline Mathlib/Geometry/Euclidean/Equilateral.lean]:
```suggestion
/-- The face of an equilateral simplex opposite a vertex is equilateral. -/
lemma faceOpposite [NeZero n] (h : s.Equilateral) : (s.faceOpposite i).Equilateral := by
```

File: Mathlib/Geometry/Euclidean/Equilateral.lean [hunk 2]
```diff
@@ -0,0 +1,108 @@
...
+  obtain ⟨r, hr⟩ := h
+  use r
+  aesop
+
+/-- Any point lies on the perpendicular bisector of any two other points. -/
+lemma mem_perpBisector (h : s.Equilateral) (hij : i ≠ j) (hik : i ≠ k) :
+    s.points i ∈ perpBisector (s.points j) (s.points k) := by
+  obtain ⟨r, hr⟩ := h
+  simp_all only [ne_eq, mem_perpBisector_iff_dist_eq, not_false_eq_true]
```
Comment (theebayuser) [inline Mathlib/Geometry/Euclidean/Equilateral.lean]:
```suggestion
    s.points i ∈ perpBisector (s.points j) (s.points k) :=
  mem_perpBisector_iff_dist_eq.2 (h.dist_eq hij hik)
```

File: Mathlib/Geometry/Euclidean/Equilateral.lean [hunk 3]
```diff
@@ -0,0 +1,108 @@
...
+    have := Finset.sum_congr rfl h
+    simp [← Finset.mul_sum, Finset.sum_sub_distrib, Finset.sum_add_distrib] at this
+    grind
+  rw [dist_eq_norm_vsub, dist_eq_norm_vsub, ← sq_eq_sq₀ (norm_nonneg _) (norm_nonneg _),
+    ← mul_right_inj' n.cast_add_one_ne_zero, mul_sq_norm_eq, mul_sq_norm_eq]
+
+/-- The centroid is the circumcenter. -/
+lemma centroid_eq_circumcenter (h : s.Equilateral) : s.centroid = s.circumcenter :=
+    s.eq_circumcenter_of_dist_eq s.centroid_mem_affineSpan (r := dist (s.points 0) s.centroid)
+      fun _ ↦ h.dist_centroid_eq
```
Comment (theebayuser) [inline Mathlib/Geometry/Euclidean/Equilateral.lean]:
```suggestion
  s.eq_circumcenter_of_dist_eq s.centroid_mem_affineSpan (r := dist (s.points 0) s.centroid)
    fun _ ↦ h.dist_centroid_eq
```

**Comment by LLaurance** [comment]
Thanks for your review

File: Mathlib/Geometry/Euclidean/Equilateral.lean [hunk 4]
```diff
@@ -0,0 +1,108 @@
...
+    s.circumcenter ∈ perpBisector (s.points i) (s.points j) := by
+  simp only [mem_perpBisector_iff_dist_eq, dist_circumcenter_eq_circumradius']
+
+namespace Equilateral
+
+/-- The face of an equilateral simplex opposite a vertex is equilateral. -/
+lemma faceOpposite [NeZero n] (h : s.Equilateral) : (s.faceOpposite i).Equilateral := by
+  obtain ⟨r, hr⟩ := h
+  use r
+  aesop
```
Comment (wwylele) [inline Mathlib/Geometry/Euclidean/Equilateral.lean]: Can this be generalized from `[InnerProductSpace ℝ V]` to `[SeminormedAddCommGroup V]` (what the definition `Affine.Simplex.Equilateral` uses)? And if so, this should also be moved to `Mathlib.Analysis.Normed.Affine.Simplex`

File: Mathlib/Geometry/Euclidean/Equilateral.lean [hunk 5]
```diff
@@ -0,0 +1,108 @@
...
+  mem_perpBisector_iff_dist_eq.2 (h.dist_eq hij hik)
+
+section Center
+
+/-- The distance between any point and the centroid is constant. -/
+lemma dist_centroid_eq (h : s.Equilateral) :
+    dist (s.points i) s.centroid = dist (s.points j) s.centroid := by
+  obtain ⟨r, hr⟩ := h
+  have mul_sq_norm_eq i : (n + 1) * ‖s.points i -ᵥ s.centroid‖ ^ 2 =
+      n * r ^ 2 - ∑ k, ‖s.points k -ᵥ s.centroid‖ ^ 2 := by
```
Comment (wwylele) [inline Mathlib/Geometry/Euclidean/Equilateral.lean]: This is worth its own lemma. As a public lemma, this should be restated in terms of `dist`. The `r` in the statement can be replaced by `dist (s.point j) (s.point k)` for `j ≠ k`

File: Mathlib/Geometry/Euclidean/Equilateral.lean [hunk 6]
```diff
@@ -0,0 +1,108 @@
...
+    have : ∑ l, inner ℝ (s.points i -ᵥ s.centroid) (s.points l -ᵥ s.centroid) = 0 := by
+      simp [← inner_sum, s.centroid_weighted_vsub_eq_zero]
+    have h l (hl : l ∈ Finset.univ.erase i) :
+        2 * inner ℝ (s.points i -ᵥ s.centroid) (s.points l -ᵥ s.centroid) =
+          ‖s.points i -ᵥ s.centroid‖ ^ 2 + ‖s.points l -ᵥ s.centroid‖ ^ 2 - r ^ 2 := by
```
Comment (wwylele) [inline Mathlib/Geometry/Euclidean/Equilateral.lean]: This two `have` can also be public lemma

File: Mathlib/Geometry/Euclidean/Equilateral.lean (hunk 4 above)
Comment (LLaurance) [reply Mathlib/Geometry/Euclidean/Equilateral.lean]: Resolved https://github.com/leanprover-community/mathlib4/pull/43646/commits/d69bf2098b67aaf1397319d2319aabbdc93f22bb

File: Mathlib/Geometry/Euclidean/Equilateral.lean (hunk 6 above)
Comment (LLaurance) [reply Mathlib/Geometry/Euclidean/Equilateral.lean]: Not sure the second one is going to be particularly useful and I imagine it will look quite messy too. However I did separate the first one.

https://github.com/leanprover-community/mathlib4/pull/43646/commits/b5bac0f89d261e00d8e1439800125fd3c02f05ef

**Comment by LLaurance** [comment]
Thank you for your review

File: Mathlib/Geometry/Euclidean/Equilateral.lean (hunk 5 above)
Comment (LLaurance) [reply Mathlib/Geometry/Euclidean/Equilateral.lean]: Resolved https://github.com/leanprover-community/mathlib4/pull/43646/changes/26d7f108d57d24ffe69f4658dfaf11b5f415157d

**Comment by LLaurance** [comment]
Not sure why that check fails most of the time

**Comment by wwylele** [comment]
You should read the CI output and follow the instructions there.

Also I don't have permission to resolve threads. Please resolve them after you have addressed them

**Comment by wwylele** [comment]
I wonder if there is a generic lemma that says "all centers of simplex coincide for equilateral simplex". It goes like this

 - A function `F : Simplex k P n -> P` is called a center if it satisfies the following properties
   - `∀ (e : Fin (n + 1) ≃ Fin (m + 1)), F (s.reindex e) = F s`
   - `∀ (f : P →ᵃⁱ[ℝ] P₂), F (s.map f _) = f (F s)`
 - An equilateral simplex enjoys symmetry where for many appropriate reflection or rotation `f : P ≃ᵃⁱ[ℝ] P`, `s.map f _ = s.reindex _` (maybe you just need reflection here)
 - These properties above can probably lock the center to a single point

**Comment by LLaurance** [comment]
> I wonder if there is a generic lemma that says "all centers of simplex coincide for equilateral simplex". It goes like this...

Been thinking about this too; makes sense for centers inside the triangle. Although it makes a lot of sense I'm not sure at the moment we have a lot of machinery for symmetry and reflection to do make use of that.

**Comment by wwylele** [comment]
I think independent from the change here, it would be cool to state the symmetry about equilateral simplex. It can start with a statement like
```
s.reindex (Equiv.swap a b) = 
s.map (EuclideanGeometry.reflection (AffineSubspace.perpBisector (s.points a) (s.points b)) _ 
```

----

Edit: combining with the characterization of centers, this tells you for center `F`
```
F s = F (s.reindex ...) 
  = F (s.map (reflection ...)) 
  = reflection (perpBisector a b) (F s) 
=> F s ∈ perpBisector a b 
=> dist (F s) a = dist (F s) b
```
for every pair of vertices `a` and `b`. This is the characterization of `s.circumcenter`, so we are done

**Comment by jsm28** [comment]
I think the right form of the symmetry statement is that `Equilateral` implies `Regular` (in a Euclidean context).
